US07268230B2
Using an analogous procedure to that described for the preparation of Example 14, 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline (250 mg, 0.54 mmol) was reacted with 2,2,2-trifluoroethyl trifluoromethanesulphonate (128 mg, 0.59 mmol) and purified by column chromatography, eluting with 5% methanol/methylene chloride to give a sticky solid. The sticky solid was dissolved in methanol and absorbed onto an Isolute SCX column. The column was washed with methanol and eluted with 7N ammonia in methanol. The product was triturated in ether/isohexane and filtered to give 4-[(4-fluoro-2-ethyl-1H-indol-5-yl)oxy]-6-methoxy-7-{3-[4-(2,2,2-trifluoroethyl)piperazin-1-yl]propoxy}quinazoline (130 mg, 44%).

reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline | 0.54 mmol, 250 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCNCC1)C | C25H28FN5O3
reactant | 2,2,2-trifluoroethyl trifluoromethanesulphonate | 0.59 mmol, 128 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | methanol | CO | CH4O
product | 4-[(4-fluoro-2-ethyl-1H-indol-5-yl)oxy]-6-methoxy-7-{3-[4-(2,2,2-trifluoroethyl)piperazin-1-yl]propoxy}quinazoline | 130 mg, 44% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)CC(F)(F)F)CC | C28H31F4N5O3
